US06555577B1
(E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(4-furan-2-yl-phenyl)-but-2-enyloxy]-phenyl}propionate
The title compound (678 mg, 77%) was prepared from (E)-3-(4-furan-2-yl-phenyl)-but-2-en-1-ol (430 mg, 2.0 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (526 mg, 2.21 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(4-furan-2-yl-phenyl)-but-2-en-1-ol | 2.0 mmol, 430 mg | O1C(=CC=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C14H14O2
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.21 mmol, 526 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(4-furan-2-yl-phenyl)-but-2-enyloxy]-phenyl}propionate | 678 mg, 77% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C=1OC=CC1 | C27H30O5
